US07648989B2
Preparation of (5-Bromo-2-nitro-pyridin-3-yl)-acetic acid methyl ester
To a suspension of 5-Bromo-2-nitro-pyridine (2.33 g, 11.5 mmol) and trimethylsilanyl-acetic acid methyl ester (1.8 g, 12.0 mmol) in THF (12 mL) is added at −78° C. a solution of dried TBAF (3.0 g, 11.5 mmol), obtained by drying TBAF×3 H2O (7.5 g) for 18 h at 70° C. under high vacuum, in a mixture of acetonitrile (6 mL) and THF (6 mL). The resulting deep red solution is stirred for 1 h at −40° C. TLC analysis indicated complete consumption of starting material. The reaction mixture is cooled to −78° C. and DDQ (2.6 g, 11.5 mmol) is carefully added. The black solution is slowly warmed to RT. Since TLC analysis indicated that no further changes occurred, the reaction mixture is partitioned between EtOAc and a saturated aq. NH4Cl solution. The layers are separated and the organic layer is washed with a saturated aqueous NH4Cl solution, brine, dried over Na2SO4 and concentrated at reduced pressure. The crude product is purified by FCC (cyclohexane/EtOAc 9:1 to 8:1) to afford the title compound as yellow needles. 1H NMR (CDCl3, 400 MHz): δ 3.94 (s, 3H), 4.17 (s, 2H), 8.20 (s, 1H), 8.78 (s, 1H).

reactant | 5-Bromo-2-nitro-pyridine | 11.5 mmol, 2.33 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | trimethylsilanyl-acetic acid methyl ester | 12.0 mmol, 1.8 g | COC(C[Si](C)(C)C)=O | C6H14O2Si
reactant | TBAF | 11.5 mmol, 3.0 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | DDQ | 11.5 mmol, 2.6 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | (5-Bromo-2-nitro-pyridin-3-yl)-acetic acid methyl ester | COC(CC=1C(=NC=C(C1)Br)[N+](=O)[O-])=O | C8H7BrN2O4
